US05196610
Stage 2: Preparation of 3-(4-bromophenoxy)benzyl alcohol.
This compound was prepared by a standard sodium borohydride reduction from 3-(4-bromophenoxy)benzaldehyde.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 3-(4-bromophenoxy)benzaldehyde | BrC1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C13H9BrO2
product | 3-(4-bromophenoxy)benzyl alcohol | BrC1=CC=C(OC=2C=C(CO)C=CC2)C=C1 | C13H11BrO2
